US05958942
i) Synthesis of 3-carbomethoxy-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine
To a solution of 581 mg (1.00 mmol) of 3-trichloro acetyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in 5.0 ml of methanol was added 0.46 ml (2.00 mmol) of a 25% methanol solution of sodium methylate. The mixture was stirred for 10 minutes at room temperature. The reaction mixture was poured into ice-water, which was neutralized with 1N HCl. The mixture was extracted with 50 ml of chloroform. The organic layer was washed with 50 ml of a saturated aqueous saline solution, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) to afford 462 mg of the desired compound (93.4%, a pale yellow liquid).

reactant | 3-trichloro acetyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 1.00 mmol, 581 mg | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C19H22Cl3F3N4O5S
reactant | sodium methylate | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | methanol | 5.0 ml | CO | CH4O
product | 3-carbomethoxy-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 462 mg | C(=O)(OC)C1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C19H25F3N4O6S
